US05070087
4-[3-[4-[Amino-bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxy-α-methylbenzenemethanol
Using the procedure of Example 20, 1-[4-[3-[4-[aminobis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]-1-ethanone is reduced with sodium borohydride to give the title compound.

reactant | 1-[4-[3-[4-[aminobis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]-1-ethanone | NC(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C30H34F2N2O3
reactant | sodium borohydride | [BH4-].[Na+]
product | 4-[3-[4-[Amino-bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxy-α-methylbenzenemethanol | NC(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(O)C)OC)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C30H36F2N2O3
